US06225330B1
Benzyl-N-(4-{[(aminocarbothioyl)amino]methyl}cyclohexyl)-carbamate:
To a solution of benzyl N-[4-({[(benzoyl-amino)carbothioyl]amino}methyl)cyclohexyl]carbamate (5.023 g, 11.4 mmol) in MeOH (110 ml) was added a solution of K2CO3 (3.5 g, 25.3 mmol) in water (30 ml). The solution was stirred for 24 hours at room temperature and the solvent was removed in vacuo with repeated additions of MeOH to azeotropically remove water. The resulting solid was treated with acetone (60 ml) and filtered. The filtrate was evaporated to yield 95% (3.47 g) of a yellow solid.

reactant | benzyl N-[4-({[(benzoyl-amino)carbothioyl]amino}methyl)cyclohexyl]carbamate | 11.4 mmol, 5.023 g | C(C1=CC=CC=C1)(=O)NC(=S)NCC1CCC(CC1)NC(OCC1=CC=CC=C1)=O | C23H27N3O3S
reactant | K2CO3 | 25.3 mmol, 3.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 110 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | Benzyl-N-(4-{[(aminocarbothioyl)amino]methyl}cyclohexyl)-carbamate | 3.47 g, 95% | C(C1=CC=CC=C1)OC(NC1CCC(CC1)CNC(=S)N)=O | C16H23N3O2S
